* /home/neel/esim3/examples/half_adder/half_adder.cir

.include half_adder.sub
x1 net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad1_ net-_u2-pad2_ half_adder
* u1  in1 in2 net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
* u2  net-_u2-pad1_ net-_u2-pad2_ sum cout dac_bridge_2
v1 in1 gnd  dc 10
v2 in2 gnd  dc 10
r1  sum gnd 1k
r2  cout gnd 1k
* u3  in1 plot_v1
* u4  in2 plot_v1
* u5  sum plot_v1
* u6  cout plot_v1
a1 [in1 in2 ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ ] [sum cout ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=[1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 1.0 ] in_high=[2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 2.0 ] rise_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] fall_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=[0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 0.0 ] out_high=[5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 5.0 ] out_undef=[0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 0.5 ] input_load=[1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 ] t_rise=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] t_fall=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] ) 
.tran 5e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(sum)
plot v(cout)
.endc
.end
